datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2](=[C:3]([C:4]([H:11])([H:12])[H:13])[H:10])[H:9])[H:8])([H:5])([H:6])[H:7]>>[C:0]([C:1]([C:2](=[C:3][C:4]([H:11])([H:12])[H:13])[H:9])([H:8])[H:10])([H:5])([H:6])[H:7],257.734
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[C:12]([C:13]([C:14](=[S:15])[H:20])[H:19])([H:16])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:6])([H:4])[H:5].[H:7][C:13]([C:12]([H:16])([H:17])[H:18])([C:14](=[S:15])[H:20])[H:19],55.6472
[C:0]([C:1]=[C:2]([C:3]([C:4]([H:11])([H:12])[H:13])([H:9])[H:10])[H:8])([H:5])([H:6])[H:7]>>[C:0]([C:1](=[C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[H:10])[H:8])[H:9])([H:5])([H:6])[H:7],149.369
[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])[H:6])[H:5].[C:8]1([H:17])([H:18])[C:9]([H:19])([H:20])[C:10]([H:21])([H:22])[C:11]2([H:23])[C:12]([H:24])([H:25])[C:13]([H:26])([H:27])[C:14]([H:28])([H:29])[C:15]2([H:30])[C:16]1([H:31])[H:32]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])([H:6])[H:24])[H:5].[C:8]1([H:17])([H:18])[C:9]([H:19])([H:20])[C:10]([H:21])([H:22])[C:11]2([H:23])[C:12]([H:25])[C:13]([H:26])([H:27])[C:14]([H:28])([H:29])[C:15]2([H:30])[C:16]1([H:31])[H:32],81.588
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[C:12]([O:13][O:14])([H:15])([H:16])[H:17]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:6])([H:4])[H:5].[H:7][O:14][O:13][C:12]([H:15])([H:16])[H:17],33.538944
[C:0]([C:1](=[N:2][H:7])[H:6])([H:3])([H:4])[H:5].[O:8][H:9]>>[C:0]([C:1](=[N:2][H:7])[H:6])([H:4])[H:5].[H:3][O:8][H:9],3.3472
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])=[C:7]([C:8]([H:18])([H:19])[H:20])[C:9]#[C:10][H:21])([H:13])[H:14])[H:12])[H:11]>>[C:0](#[C:1][C:2]1([H:12])[C:3]([H:13])([H:14])[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[C:7]1([C:8]([H:18])([H:19])[H:20])[C:9]#[C:10][H:21])[H:11],149.16
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]([c:14]1[c:15]([H:23])[c:16]([H:24])[c:17]([H:25])[c:18]([H:26])[c:19]1[H:27])[H:22])([H:20])[H:21]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:13]([C:12]([H:20])[H:21])([c:14]1[c:15]([H:23])[c:16]([H:24])[c:17]([H:25])[c:18]([H:26])[c:19]1[H:27])[H:22])[H:5],46.4842
[O:0][H:1].[c:2]1([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]([H:12])[c:7]1[H:13]>>[O:0]([H:1])[H:8].[c:2]1[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]([H:12])[c:7]1[H:13],3.0681272
[C:0](#[C:1][C:2]([S:3][H:6])[H:5])[H:4].[C:7](=[C:8]=[C:9]([H:12])[H:13])([H:10])[H:11]>>[C:0](#[C:1][C:2]([S:3][H:6])([H:5])[H:10])[H:4].[C:7](=[C:8]=[C:9]([H:12])[H:13])[H:11],55.6472
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[C:7](=[C:8]([C:9]([C:10](=[C:11]([H:17])[H:18])[H:16])[H:15])[H:14])([H:12])[H:13]>>[C:0](=[C:1][S:2][H:6])([H:3])[H:4].[H:5][C:9]([C:8](=[C:7]([H:12])[H:13])[H:14])([C:10](=[C:11]([H:17])[H:18])[H:16])[H:15],134.097
[C:0](=[C:1]([C:2]#[C:3][C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])([H:6])[H:7].[C:12]([H:13])([H:14])[H:15]>>[C:0](=[C:1]([C:2](=[C:3][C:4](=[C:5]([H:10])[H:11])[H:9])[C:12]([H:13])([H:14])[H:15])[H:8])([H:6])[H:7],24.3509
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[c:14]1([H:20])[c:15]([H:21])[c:16]([H:22])[c:17]([H:23])[c:18]([H:24])[c:19]1[H:25]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([H:11])([H:12])[H:13])[H:20])[H:7])([H:5])[H:6].[c:14]1[c:15]([H:21])[c:16]([H:22])[c:17]([H:23])[c:18]([H:24])[c:19]1[H:25],122.884
[C:0](=[C:1]([C:2](=[O:3])[H:7])[H:6])([H:4])[H:5].[O:8]>>[C:0](=[C:1]([C:2]=[O:3])[H:6])([H:4])[H:5].[H:7][O:8],7.815712
[C:0](#[C:1][C:2]=[C:3]([H:5])[H:6])[H:4].[C:7](=[C:8]([C:9]([C:10](=[C:11]([H:18])[H:19])[H:17])([H:15])[H:16])[H:14])([H:12])[H:13]>>[C:0](#[C:1][C:2](=[C:3]([H:5])[H:6])[H:15])[H:4].[C:7](=[C:8]([C:9]([C:10](=[C:11]([H:18])[H:19])[H:17])[H:16])[H:14])([H:12])[H:13],8.7864
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9]([C:10](=[C:11]([C:12]([H:28])([H:29])[H:30])[c:13]1[c:14]([H:31])[c:15]([H:32])[c:16]([H:33])[c:17]([H:34])[c:18]1[H:35])[c:19]1[c:20]([H:36])[c:21]([H:37])[c:22]([H:38])[c:23]([H:39])[c:24]1[H:40])([H:25])([H:26])[H:27]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:10]([C:9]([H:25])([H:26])[H:27])([C:11]([C:12]([H:28])([H:29])[H:30])[c:13]1[c:14]([H:31])[c:15]([H:32])[c:16]([H:33])[c:17]([H:34])[c:18]1[H:35])[c:19]1[c:20]([H:36])[c:21]([H:37])[c:22]([H:38])[c:23]([H:39])[c:24]1[H:40])[H:4],48.0323
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]=[C:8]([H:11])[H:12])([H:9])[H:10]>>[C:0](#[C:1][C:2]([H:4])([H:5])[H:9])[H:3].[C:6](=[C:7]=[C:8]([H:11])[H:12])[H:10],44.7688
